US08981085B2
A mixture of (R)—N-(4,5-difluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxypropanamide (0.21 g, 0.82 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (0.33 g, 1.65 mmol) and DIEA (0.43 mL, 2.47 mmol) in n-BuOH (2 mL) was stirred at 140° C. (bath) for 12 hours. The solvent was removed, and the residue was dissolved in ethyl acetate (20 mL), washed with water (10 mL), brine (10 mL), dried (sodium sulfate) and concentrated in vacuo. The residue obtained was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 10-80% CH3CN/water gradient, 25 CV). The product isolated was dissolved in DCM (2 mL), and TFA (0.5 mL) was added. The mixture was stirred at room temperature for 1 hour. The solvent was removed. The residue was dissolved in DCM (1 mL) and 2N HCl in ether (3 mL) was added. The solid formed was collected to give (R)—N-(4-((R)-3-aminopiperidin-1-yl)-5-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxypropanamide hydrochloride (0.31 g, 93%) as a solid. 1H NMR (400 MHz, D2O) δ 8.08 (d, 1H), 7.38 (s, 1H), 4.02 (m, 1H), 3.80 (m, 1H), 3.46 (m, 2H), 3.37 (s, 3H), 3.30 (m, 1H), 3.20 (m, 1H), 2.07 (m, 1H), 1.76 (m, 1H), 1.62 (m, 2H), 1.33 (d, 3H). LCMS (APCI+) m/z 336 (M+H)+.

reactant | (R)—N-(4,5-difluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxypropanamide | 0.82 mmol, 0.21 g | FC1=C2C(=NC=C1F)NC=C2NC([C@@H](C)OC)=O | C11H11F2N3O2
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.65 mmol, 0.33 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 2.47 mmol, 0.43 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | n-BuOH | 2 mL | CCCCO | C4H10O
product | (R)—N-(4-((R)-3-aminopiperidin-1-yl)-5-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxypropanamide hydrochloride | 0.31 g, 93% | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1F)NC=C2NC([C@@H](C)OC)=O | InChI=1S/C16H22FN5O2.ClH/c1-9(24-2)16(23)21-12-7-20-15-13(12)14(11(17)6-19-15)22-5-3-4-10(18)8-22;/h6-7,9-10H,3-5,8,18H2,1-2H3,(H,19,20)(H,21,23);1H/t9-,10-;/m1./s1
